US04435403
3.25 g of 6-amino-4-methyl-beta-carboline-3-carboxylic-acid-ethylester in 70 ml of ethanol, together with 1.7 ml of 1,4-dichloro-2-cis-butene and 4.5 g of ethyldiisopropylamine is heated for 10 h at 50° C. After stirring in 250 ml of ice water, the precipitate is filtered, washed and dried in vacuum. The raw product (3.4 g of a mixture of dihydropyrrole derivative and pyrrole derivative) is dissolved in 600 ml of methylene chloride and, after addition of 17 g of pyrolusite, is stirred for 2 h at a room temperature. After filtering, and distilling off the solvent, 2.75 g of raw product is obtained crystallizing out of acetone. In this manner, 2.13 g of 4-methyl-6-(1-pyrrolyl)-beta-carboline-3-carboxylic-acid-ethylester with a m.p. of 214°-217° C. is obtained.

reactant | 6-amino-4-methyl-beta-carboline-3-carboxylic-acid-ethylester | 3.25 g | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)N | C15H15N3O2
reactant | 1,4-dichloro-2-cis-butene | 1.7 ml | Cl\C=C/CCCl | C4H6Cl2
reactant | ethyldiisopropylamine | 4.5 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 4-methyl-6-(1-pyrrolyl)-beta-carboline-3-carboxylic-acid-ethylester | 2.13 g | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)N1C=CC=C1 | C19H17N3O2
